US05763458
Proceeding as in Example 12, Step (a), but replacing 1-(4-amino-5-chloro-2-methoxyphenyl)-3-{1-[2-(methylsulfonyl)aminoeth yl]piperidin-4-yl}propan-1-one with 1-[4-amino-5-chloro-2-methoxyphenyl]-5-(piperidin-1-yl)pentan-1-one, and then as in Example 12, Step (b), but replacing 3,5-dimethoxybenzyl chloride with iodoethane, gave 1-[4-amino-5-chloro-2-ethoxyphenyl]-5-(piperidin-1-yl)-pentan-1-one hydrochloride, m.p. 230°-231° C.

reactant | 1-[4-amino-5-chloro-2-methoxyphenyl]-5-(piperidin-1-yl)pentan-1-one | NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OC | C17H25ClN2O2
reactant | iodoethane | ICC | C2H5I
product | 1-[4-amino-5-chloro-2-ethoxyphenyl]-5-(piperidin-1-yl)-pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OCC | InChI=1S/C18H27ClN2O2.ClH/c1-2-23-18-13-16(20)15(19)12-14(18)17(22)8-4-7-11-21-9-5-3-6-10-21;/h12-13H,2-11,20H2,1H3;1H
